US05770594
Trans-7-chloro-5-(naphthalen-1-yl)-1-neopentyl-3-(1H-tetrazol-5-ylmethyl)-1,2,3,5-tetrahydro-4,1-benzothiazepin-2-one
A heterogeneous mixture of trans-7-chloro-5-(naphthalen-1-yl)-1-neopentyl-1,2,3,5-tetrahydro-2-oxo-4,1-benzothiazepine-3-acetonitrile (75 mg, 167 μmol), trimethyltin azide (70 mg, 334 μmol) and toluene (2 mL) was heated at reflux for 18 hours. Reaction mixture concentrated under reduced pressure and purified by flash column chromatography (80:15:1 chloroform/methanol/ammonium hydroxide) to yield a clear oil which was taken up in ethyl acetate, washed with 0.5 N hydrochloric acid, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide 58.5 mg (71 %) of the title compound as a white powder.

reactant | trans-7-chloro-5-(naphthalen-1-yl)-1-neopentyl-1,2,3,5-tetrahydro-2-oxo-4,1-benzothiazepine-3-acetonitrile | 167 μmol, 75 mg | ClC=1C=CC2=C([C@H](S[C@@H](C(N2CC(C)(C)C)=O)CC#N)C2=CC=CC3=CC=CC=C23)C1 | C26H25ClN2OS
reactant | trimethyltin azide | 334 μmol, 70 mg | C[Sn](C)(C)N=[N+]=[N-]
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans-7-chloro-5-(naphthalen-1-yl)-1-neopentyl-3-(1H-tetrazol-5-ylmethyl)-1,2,3,5-tetrahydro-4,1-benzothiazepin-2-one | 58.5 mg, 71 % | ClC=1C=CC2=C([C@H](S[C@@H](C(N2CC(C)(C)C)=O)CC2=NN=NN2)C2=CC=CC3=CC=CC=C23)C1 | C26H26ClN5OS
